US04764519
(h) 2-[3-(5-Bromo-3-methylpyrid-2-yl)-propylamino]-3-hydroxy-5-(pyrid-3-ylmethyl)pyridine
3-[3-(5-Bromo-3-methylpyrid-2-yl)propyl]-6-(3-pyridylmethyl)-3H-1,2,3-triazolo[5,4-b]pyridine (2.68 g) was added in portions over 15 minutes to hot (190°-200° C.) stirred polyphosphoric acid (10.45 g). The stirred reaction was heated at 190°-200° C. for a further 45 minutes, water (20 ml) was added to the hot reaction mixture, the solution was neutralised with concentrated ammonium hydroxide and allowed to cool. The pH was then raised to 10, chloroform extraction of the aqueous mixture gave a brown solid. This solid was recrystallised from ethanol/ether giving buff crystals (1.64 g). These were chromatographed on silica in methanol/chloroform 1:9, the product was then recrystallised from chloroform/petroleum ether (40°-60° C.) to give the title compound (1.4 g) (off-white crystals), m.p. 141°-143° C.

reactant | 3-[3-(5-Bromo-3-methylpyrid-2-yl)propyl]-6-(3-pyridylmethyl)-3H-1,2,3-triazolo[5,4-b]pyridine | 2.68 g | BrC=1C=C(C(=NC1)CCCN1N=NC=2C1=NC=C(C2)CC=2C=NC=CC2)C | C20H19BrN6
reactant | water | 20 ml | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(5-Bromo-3-methylpyrid-2-yl)-propylamino]-3-hydroxy-5-(pyrid-3-ylmethyl)pyridine | 1.4 g | BrC=1C=C(C(=NC1)CCCNC1=NC=C(C=C1O)CC=1C=NC=CC1)C | C20H21BrN4O
